US07799779B2
c) 2-[Methyl(toluene-4-sulphonyl)amino]ethyl toluene-4sulphonate
10.55 g of p-toluenesulphonyl chloride are added to a solution of 2.13 ml of 2-(methylamino)-ethanol and 8 ml of triethylamine in 25 ml of dichloromethane while cooling in ice, and the mixture is stirred at room temperature for 20 hours. The reaction mixture is diluted with 100 ml of tert-butyl methyl ether and washed with 0.1M HCl (50 ml), water (50 ml) and brine (50 ml). The organic phase is dried with sodium sulphate and evaporated, whereupon the title compound crystallizes as white solid. Rt=4.67.

reactant | p-toluenesulphonyl chloride | 10.55 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-(methylamino)-ethanol | 2.13 ml | CNCCO | C3H9NO
reactant | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | tert-butyl methyl ether | 100 ml | COC(C)(C)C | C5H12O
product | 2-[Methyl(toluene-4-sulphonyl)amino]ethyl toluene-4sulphonate | C1(=CC=C(C=C1)S(=O)(=O)OCCN(S(=O)(=O)C1=CC=C(C=C1)C)C)C | C17H21NO5S2
